US06369092B1
Thionyl chloride (2 ml) is added to a chloroform solution (30 ml) of 1-(biphenyl-4-ylmethyl)-6-hydroxymethyl-2-methylbenzimidazole (3.62 g), and the solution is stirred for one hour at 60° C. A sodium bicarbonate aqueous solution is added and the reaction is halted. The chloroform layer is washed with water and dried. After removing the solvent through evaporation under reduced pressure, ethyl acetate is added and crystallization is performed. After the crystals are separated through filtration and washed with ethyl acetate, they are dried and thus, 1-(biphenyl-4-ylmethyl)-6-chloro-methyl-2-methylbenzimidazole (2.04 g) is obtained. 1H-NMR (CDCl3, δ): 2.67 (3H, s), 4.71 (2H, s), 5.40 (2H. s), 7.12 (2H, d, J=8.2 Hz), 7.31-7.38 (3H, m), 7.43 (3, s), 7.52-7.58 (4H, m), 7.75 (1H, d, J=8.2 Hz).

reactant | Thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(biphenyl-4-ylmethyl)-6-hydroxymethyl-2-methylbenzimidazole | 3.62 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2)CO)C)C2=CC=CC=C2 | C22H20N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(biphenyl-4-ylmethyl)-6-chloro-methyl-2-methylbenzimidazole | 2.04 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2C)Cl)C)C2=CC=CC=C2 | C22H19ClN2
